US07662826B2
A solution of N-{2-(4-t-butoxycarbonyl piperazino)phenyl}methyl 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-6-amide (300 mg) and trifluoroacetic acid (0.42 ml) in chloroform (6 ml) was heated at reflux over 6 hours. The reactant was cooled, and ice and a 2N aqueous sodium hydroxide solution (3 ml) were added, and thereafter extracted with chloroform. The organic layer was dried with magnesium sulfate, and thereafter the solvent was distilled under a reduced pressure. The residue was purified by an alumina column chromatography, and thereafter recrystallized from tetrahydrofuran-diisopropyl ether to yield N-(2-piperazinophenyl)methyl 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-6-amide (220 mg, 90%). mp: 185-188° C.

reactant | N-{2-(4-t-butoxycarbonyl piperazino)phenyl}methyl 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-6-amide | 300 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CNC(=O)C=1C=NC=2N(C1)N=CC2C2=CC(=CC=C2)Cl | C29H31ClN6O3
reactant | trifluoroacetic acid | 0.42 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-piperazinophenyl)methyl 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-6-amide | 220 mg, 90% | N1(CCNCC1)C1=C(C=CC=C1)CNC(=O)C=1C=NC=2N(C1)N=CC2C2=CC(=CC=C2)Cl | C24H23ClN6O
